US08669234B2
(1-{2-[5-(7{-2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-5,10-dihydro-chromeno[5,4,3-cde]chromen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester:
Title compound was prepared according to the method employed to prepare (1-{2-[5-(2-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-6-H-dibenzo[c,h]chromen-8-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester, substituting trifluoro-methanesulfonic acid 7-trifluoromethane sulfonyloxy-5,10-dihydro-chromeno[5,4,3-cde]chromen-2-yl ester for trifluoro-methanesulfonic acid 2-trifluoromethanesulfonyloxy-6-H-dibenzo[c,h]chromen-8-yl ester.

reactant | (1-{2-[5-(2-{2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-6-H-dibenzo[c,h]chromen-8-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C=1C=CC2=C(COC3=C4C(=CC=C23)C=C(C=C4)C=4NC(=NC4)C4N(CCC4)C(C(C(C)C)NC(=O)OC)=O)C1)=O | C45H52N8O7
reactant | trifluoro-methanesulfonic acid 2-trifluoromethanesulfonyloxy-6-H-dibenzo[c,h]chromen-8-yl ester | FC(S(=O)(=O)OC=1C=CC=2C(=CC=C3C4=C(COC23)C=C(C=C4)OS(=O)(=O)C(F)(F)F)C1)(F)F | C19H10F6O7S2
product | (1-{2-[5-(7{-2-[1-(2-Methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-5,10-dihydro-chromeno[5,4,3-cde]chromen-2-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C=1C=C2C=3C4=C(COC3C1)C=C(C=C4OC2)C=2NC(=NC2)C2N(CCC2)C(C(C(C)C)NC(=O)OC)=O)=O | C42H50N8O8
